US06004994
1 g (0.0022 mole) of (Z)-2-[3-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-2-oxo-pyrrolidin-1-yl]ethyl acetate are placed in solution in a mixture of 13 ml of ethanol and 11 ml of water and treated with 0.1 g (1.1 eq.) of sodium hydroxide. The medium is stirred at ambient temperature for 4 h, then the ethanol is evaporated off. The aqueous phase is extracted with dichloromethane. The organic phase is washed with water, dried and concentrated. The residue is taken up into t-butyl methyl ether. 0.7 g of (Z)-3-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-1-(2-hydroxyethyl)-pyrrolidin-2-one are thus obtained as a yellow solid of melting point 187-188° C.

reactant | (Z)-2-[3-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-2-oxo-pyrrolidin-1-yl]ethyl acetate | 0.0022 mole, 1 g | C(C)(=O)OCCN1C(\C(\CC1)=C(\C1=CC=C(C=C1)S(=O)(=O)C)/C1=CC=C(C=C1)Cl)=O | C22H22ClNO5S
reactant | sodium hydroxide | 0.1 g, 1.1 eq. | [OH-].[Na+]
solvent | ethanol | 13 ml | C(C)O | C2H6O
solvent | water | 11 ml | O | H2O
product | (Z)-3-[1-(4-chlorophenyl)-1-[4-(methylsulphonyl)phenyl]methylene]-1-(2-hydroxyethyl)-pyrrolidin-2-one | 0.7 g | ClC1=CC=C(C=C1)\C(\C1=CC=C(C=C1)S(=O)(=O)C)=C\1/C(N(CC1)CCO)=O | C20H20ClNO4S
